US07825128B2
b) Preparation of (RS)—S-(4-nitrophenyl)-S-methylsulfoximide
23.65 g (127.7 mmol) (RS)-1-(methylsulphinyl)-4-nitrobenzene in 130 ml chloroform are treated with 9.32 g (143.4 mmol) sodium azide. The mixture is slowly treated with 32.4 ml of concentrated sulphuric acid at 0° C. and then slowly heated to 45° C. After 16 hrs, the mixture is cooled to room temperature, treated with ice-water and extracted with chloroform. This organic phase is discarded. The aqueous phase is basified with 2N NaOH solution and extracted with DCM. The combined organic phases are washed with saturated NaCl solution, dried (Na2SO4), filtered and concentrated. 17.17 g (88.4 mmol, corresponding to 63% of theor.) of the product is obtained.

reactant | (RS)-1-(methylsulphinyl)-4-nitrobenzene | 127.7 mmol, 23.65 g | CS(=O)C1=CC=C(C=C1)[N+](=O)[O-] | C7H7NO3S
reactant | sodium azide | 143.4 mmol, 9.32 g | [N-]=[N+]=[N-].[Na+]
reactant | sulphuric acid | 32.4 ml | S(O)(O)(=O)=O | H2O4S
solvent | chloroform | 130 ml | C(Cl)(Cl)Cl | CHCl3
product | (RS)—S-(4-nitrophenyl)-S-methylsulfoximide | [N+](=O)([O-])C1=CC=C(C=C1)S(=O)(=N)C | C7H8N2O3S
